US08957070B2
N-[2-(Benzylthio)-2-methylpropyl]-5-fluoro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 5-fluoro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.20 g), 2-(benzylthio)-2-methylpropylamine (0.13 g), 1H-1,2,3-benzotriazol-1-ol (0.11 g) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.14 g) at 4° C., and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-4:6) to give the title compound (220 mg, crude yield 72%) as pale-purple crystals.

reactant | 5-fluoro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.20 g | FC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C=1SC=CC1)C(=O)O | C13H9FN2O4S2
reactant | 2-(benzylthio)-2-methylpropylamine | 0.13 g | C(C1=CC=CC=C1)SC(CN)(C)C | C11H17NS
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.11 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.14 g | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[2-(Benzylthio)-2-methylpropyl]-5-fluoro-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 220 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)F)NS(=O)(=O)C=1SC=CC1)(C)C | C24H24FN3O3S3
